US06943183B2
1. Synthesis of 6-Hydroxy-5-isobutoxymethyl-3,4-dihydro-2H-naphthalen-1-one
To a solution of 5-Chloromethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one, prepared as described Chem. Pharm. Bull. 25(11)2988-3002(1077), (0.211 g, 0.001 mol) and triethylamine (0.167 ml, 0.0012 mol, Mallinckrodt) contained in a 16×125 mm screw top glass tube, was added isobutyl alcohol (3 ml, Aldrich Chemical). The tube was capped with a teflon lined cap and placed on an orbital mixing heat block at reflux temperature (˜108° C.) for 16 hrs. The reaction mixture was concentrated in vacuo to a pink-red syrup. On addition of ethyl ether, a pinkish solid precipitated from the syrup. Washed mixture with 5% citric acid, brine, and dried organic phase over anhydrous sodium sulfate. Evaporated mixture in vacuo to yield a red-pink powder, 0.210 g, 85% crude yield. Low resolution mass spectroscopy (APCI) 249 [M+H]+.

reactant | 5-Chloromethyl-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
reactant | triethylamine | 0.0012 mol, 0.167 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl alcohol | 3 ml | C(C(C)C)O | C4H10O
product | 6-Hydroxy-5-isobutoxymethyl-3,4-dihydro-2H-naphthalen-1-one | OC=1C(=C2CCCC(C2=CC1)=O)COCC(C)C | C15H20O3
